US07951819B2
4-Chloro-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide (CJS 3730)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 4-chlorobenzoyl chloride to afford the title compound (11 mg, 15%). 1H-NMR (δ, ppm, DMSO-d6): 6.49 (d, 1H, HPy,5, J=6.0 Hz), 6.91 (d, 1H, Harom, J=8.0 Hz), 7.42 (t, 1H, Harom, J=8.0 Hz), 7.59-7.63 (m, 3H, Harom), 7.65 (d, 1H, Harom, J=8.0 Hz), 7.80 (d, 1H, HPy,6, J=6.0 Hz), 7.96 (d, 2H, Harom, J=9.0 Hz), 10.40 (s, 1H, NHamide), 11.19 (s, 1H, NHPy3), 11.38 (s, 1H, NHPy2). HRMS (EI): m/z [M+H] calcd for C19H14N4O3Cl: 381.0754; found: 381.0753.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 4-Chloro-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide | 11 mg, 15% | ClC1=CC=C(C(=O)NC2=CC(=CC=C2)OC2=C3C(=NC=C2)NC(N3)=O)C=C1 | C19H13ClN4O3
